US06933387B2
a) (4R,10aR)-7-(Benzhydrylidene-amino)-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
A mixture of (4R,10aR)-7-bromo-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester (3.0 g, 8 mmol), benzophenone imine (1.52 g, 8 mmol), tris(dibenzylideneacetone)dipalladium chloroform complex (85 mg, 0.08 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphtalene (153 mg, 0.24 mmol) and sodium tert-butylate (1.1 g, 11.4 mmol) in toluene (30 mL) was heated to 80° C. for 3 h. After cooling the mixture was diluted with diethyl ether (300 mL) and filtered through Celite®. The solvents were evaporated and the residue was purified by chromatography on silica gel with ethylacetate/n-hexane (1:4). The title product was isolated as yellowish foam (3.4 g, 89%); ISP-MS: m/e=468.3 (M+H+).

reactant | (4R,10aR)-7-bromo-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 8 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C=CC3C2)Br)[C@@H](C1)C | C17H23BrN2O2
reactant | benzophenone imine | 8 mmol, 1.52 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphtalene | 0.24 mmol, 153 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | (4R,10aR)-7-(Benzhydrylidene-amino)-4-methyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C=CC3C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2)[C@@H](C1)C | C30H33N3O2
